US05576324
2-Aminomethyl-2,5,8-trimethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one·HCl
A hydrochloric acid salt of 2-Aminomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (1.18 g, 4.0 mmol) was suspended in a mixture of water (200 ml) and methanol (40 ml), to which 10% palladium-on-carbon (1.2 g) was added. The mixture was then stirred in a bath at 80° C. for 16 hours in the atmosphere of hydrogen. Post-treatment and recrystallization (methanol-ether) were performed in a manner similar to that described in Example 280 to obtain 957 mg of the title compound as colorless crystals (80.6%).

reactant | hydrochloric acid | Cl | ClH
reactant | 2-Aminomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 4.0 mmol, 1.18 g | NCC1(CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1)C | C15H18N2O2
reactant | hydrogen | [H][H] | H2
solvent | water | 200 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-on-carbon | 1.2 g | [Pd] | Pd
product | 2-Aminomethyl-2,5,8-trimethyl-2,3,6,7,8,9-hexahydrofuro[2,3-f]quinoline-7-one·HCl | 957 mg, 80.6% | NCC1(CC=2C(=C3CC(C(NC3=C(C2)C)=O)C)O1)C.Cl | InChI=1S/C15H20N2O2.ClH/c1-8-4-10-6-15(3,7-16)19-13(10)11-5-9(2)14(18)17-12(8)11;/h4,9H,5-7,16H2,1-3H3,(H,17,18);1H
